US09334260B2
3,3″-Bis(phenyl)-9,3′:6′,9″-ter-9H-carbazole (B1)
97 g (123 mmol) of 3,3″-bis(phenyl)-9′-[(phenyl)sulfonyl]-9,3′:6′,9″-ter-9H-carbazole and 48 g (856 mmol) of potassium hydroxide in 65 ml of dimethyl sulfoxide and 21 ml of water are heated under reflux for 1 h. The mixture is subsequently cooled to room temperature and neutralised using 1 M HCl solution. The mixture is then extracted with dichloromethane. The solvent is evaporated in vacuo, and the residue is purified by chromatography (heptane/ethyl acetate 10:1). Yield: 64.8 g (100 mmol), 80%.

reactant | 3,3″-bis(phenyl)-9′-[(phenyl)sulfonyl]-9,3′:6′,9″-ter-9H-carbazole | 123 mmol, 97 g | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C54H35N3O2S
reactant | potassium hydroxide | 856 mmol, 48 g | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | dimethyl sulfoxide | 65 ml | CS(=O)C | C2H6OS
solvent | water | 21 ml | O | H2O
product | 3,3″-Bis(phenyl)-9,3′:6′,9″-ter-9H-carbazole | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC=CC=C1 | C48H31N3
